US04710507
n-Butyl lithium (9 cm3 of a 1.6M solution in hexane) was added at -45° to a stirred solution of 1-methyl-(1H)-imidazole (1.03 cm3) in THF (30 cm3) under nitrogen. After 1.25 hours a solution of anhydrous zinc chloride (1.95 g) in THF (30 cm3) was added dropwise over 5 minutes giving a white precipitate. The mixture was warmed to room temperature, a solution of 6-bromo-2-methoxyquinoline (3 g) and tetrakis (triphenylphosphine) palladium(O) (0.2 g) in THF (20 cm3) was added, and the solution was heated under reflux for 16 hours. Saturated ammonium chloride (2 cm3) was added, the reaction mixture was concentrated in vacuo, and the residue partitioned between chloroform (100 cm3) and a solution of ethylenediaminetetraacetic acid disodium salt (10 g) in water (100 cm3). The aqueous phase was extracted further with chloroform (2×50 cm3) and the combined and dried (MgSO4) extracts were evaporated in vacuo to give a solid, which was chromatographed on silica (Merck "MK 60.9385"), eluting with chloroform:methanol, 19:1 (by volume). The requisite fractions were combined and evaporated in vacuo to afford a foam which was recrystallised from ethyl acetate-hexane to give 6-[1-methyl-(1H)-imidazol-2-yl]-2-methoxyquinoline, m.p. 116.5°-118.5°, (0.517 g).

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 1-methyl-(1H)-imidazole | 1.03 cm3 | CN1C=NC=C1 | C4H6N2
reactant | 6-bromo-2-methoxyquinoline | 3 g | BrC=1C=C2C=CC(=NC2=CC1)OC | C10H8BrNO
reactant | ammonium chloride | 2 cm3 | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 cm3 | C1CCOC1 | C4H8O
solvent | THF | 30 cm3 | C1CCOC1 | C4H8O
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
catalyst | zinc chloride | 1.95 g | [Cl-].[Zn+2].[Cl-]
product | 6-[1-methyl-(1H)-imidazol-2-yl]-2-methoxyquinoline | CN1C(=NC=C1)C=1C=C2C=CC(=NC2=CC1)OC | C14H13N3O
